US06894042B2
A stirred mixture of methyl benzofuran-5-carboxylate (1.3 g, 7.38 mmol) in MeOH (51 mL) and sodium hydroxide (41 mL of a 5% aqueous solution) is heated to 65° C. for 4 h. The mixture is cooled to rt, and MeOH is removed in vacuo. The remaining aqueous layer is extracted with CH2Cl2. The CH2Cl2 layer is discarded, and the aqueous layer is acidified to pH=1 with concentrated hydrochloric acid. The aqueous layer is extracted with CHCl3. The organic layer is washed with water, dried (MgSO4), filtered and concentrated in vacuo to afford 1.2 g (98%) of benzofuran-5-carboxylic acid as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 12.9, 8.30, 8.11, 7.92, 7.69, 7.09.

reactant | methyl benzofuran-5-carboxylate | 7.38 mmol, 1.3 g | O1C=CC2=C1C=CC(=C2)C(=O)OC | C10H8O3
solvent | MeOH | 51 mL | CO | CH4O
solvent | sodium hydroxide | [OH-].[Na+]
product | benzofuran-5-carboxylic acid | 1.2 g, 98% | O1C=CC2=C1C=CC(=C2)C(=O)O | C9H6O3
